* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch.asc
* Generated by LTspice 24.1.4 for Windows.
R1 0 LOAD 3000
V1 N001 0 48
M3 N004 N005 0 0 BSC047N08NS3
V2 N006 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R2 N006 N005 220
R3 N006 0 10000
C2 N005 0 10p
R4 N002 N003 10000
R5 N003 N004 1000
C3 N002 N003 10p
D1 N003 N002 EDZV22B
V3 N007 0 16.8
M5 N010 N011 0 0 BSC047N08NS3
R9 N012 N011 220
R10 N012 0 10000
C5 N011 0 10p
R11 N008 N009 10000
R15 N009 N010 910
C6 N008 N009 10p
M6 LOAD N009 N008 N008 Si7469DP
D2 N009 N008 EDZV15B
M4 N007 N009 N008 N008 Si7469DP
M1 LOAD N003 N002 N002 Si7469DP
M2 N001 N003 N002 N002 Si7469DP
V4 N012 0 PULSE(0 10 420m 1u 1u 20m 160m 1)
C9 LOAD N009 10n
C10 LOAD N003 10n
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
* May not need this zener diode bc it is consuming an extra 0.8mA when turned on but it might be good to have somethng clamping this to 15V
.tran 600ms
.backanno
.end
